US07495014B2
5-Bromo-2-nitro-3-pyrazol-1-yl-phenylamine:
To a solution of 1-(5-bromo-3-fluoro-2-nitro-phenyl)-1H-pyrazole (240 mg, 0.84 mmol) in ethanol (3 mL) was added ammonia (3 mL, 2N in methanol. The resulting mixture was heated in a sealed tube at 80° C. for 16 hours then concentrated in vacuo. The residue was purified by column chromatography over silica gel eluted with ethyl acetate:hexanes (1:3) to afford 205 mg (86%) of the title compound as a yellow solid. 1H NMR (CDCl3) δ 5.20 (br s, 2H), 6.50 (t, 1H), 6.9 (d, 1H), 7.1 (d, 1H), 7.7 (d, 1H), 7.8 (d, 1H). MS M+1 283, M+1+2 285.

reactant | 1-(5-bromo-3-fluoro-2-nitro-phenyl)-1H-pyrazole | 0.84 mmol, 240 mg | BrC=1C=C(C(=C(C1)N1N=CC=C1)[N+](=O)[O-])F | C9H5BrFN3O2
reactant | ammonia | N | H3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 5-Bromo-2-nitro-3-pyrazol-1-yl-phenylamine | 205 mg, 86% | BrC=1C=C(C(=C(C1)N)[N+](=O)[O-])N1N=CC=C1 | C9H7BrN4O2
